US09315521B2
A mixture of methyl 2-chloro-5-methylbenzoate (3.0 g, 16.2 mmol), N-bromosuccinimide (3.0 g, 17.0 mmol), and benzoyl peroxide (catalytic) in anhydrous carbon tetrachloride (50 mL) was stirred at reflux overnight. Dichloromethane (50 mL) was added after cooling to room temperature. The mixture was extracted with 1 N NaOH (2×100 mL). The organic layer was recovered, dried over MgSO4, filtered, evaporated, and dried in vacuo, affording methyl 5-(bromomethyl)-2-chlorobenzoate (4.06 g, 95% yield). The product was used without further purification.

reactant | methyl 2-chloro-5-methylbenzoate | 16.2 mmol, 3.0 g | ClC1=C(C(=O)OC)C=C(C=C1)C | C9H9ClO2
reactant | N-bromosuccinimide | 17.0 mmol, 3.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | Dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | carbon tetrachloride | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | methyl 5-(bromomethyl)-2-chlorobenzoate | 4.06 g, 95% yield | BrCC=1C=CC(=C(C(=O)OC)C1)Cl | C9H8BrClO2
